US09227967B2
tert-Butyl N-(4-{1H-pyrrolo[2,3-c]pyridin-3-yl}cyclohex-3-en-1-yl)carbamate
A suspension of 1H-pyrrolo[2,3-c]pyridine (0.95 g, 8.05 mmol), tert-butyl (4-oxocyclohexyl)carbamate (1.82 g, 8.54 mmol) and KOH (0.95 g, 17.0 mmol) in MeOH (10 mL) was heated at reflux overnight. The solution was added to ice-water (50 mL) and then MeOH (50 mL) was added. The resulting solution was concentrated to circa 50 mL and extracted three times with DCM/MeOH (9:1, 50 mL) and the organic layers were combined and concentrated. The residue was purified by flash chromatography (9:1 DCM/MeOH) to give the title compound as a white solid (1.96 g, 78%). MS (ESI+) m/z=314 (M+H)+.

reactant | 1H-pyrrolo[2,3-c]pyridine | 8.05 mmol, 0.95 g | N1C=CC=2C1=CN=CC2 | C7H6N2
reactant | tert-butyl (4-oxocyclohexyl)carbamate | 8.54 mmol, 1.82 g | O=C1CCC(CC1)NC(OC(C)(C)C)=O | C11H19NO3
reactant | KOH | 17.0 mmol, 0.95 g | [OH-].[K+]
solvent | MeOH | 10 mL | CO | CH4O
solvent | MeOH | 50 mL | CO | CH4O
product | tert-Butyl N-(4-{1H-pyrrolo[2,3-c]pyridin-3-yl}cyclohex-3-en-1-yl)carbamate | 1.96 g, 78% | N1C=C(C=2C1=CN=CC2)C2=CCC(CC2)NC(OC(C)(C)C)=O | C18H23N3O2
